US05824652
Ethyl-2-methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazine-2-carboxylate
To a suspension of KF (3.016 g, 52 mmoles) in anhydrous dimethyl formamide (14 ml), diethyl-2-bromo-2-methyl-malonate (3.90 ml, 20 mmoles) was added and the mixture was stirred for 15 minutes at room temperature. Subsequently, 2-mercaptoaniline (2.50 g, 20 mmoles) was added and the mixture was stirred for 6 hours at the temperature of 60° C. and overnight at room temperature. The reaction mixture was admixed with a mixture of water and ice (80 ml), the product which separated was filtered off by suction and recrystallized from absolute ethanol. Thus there were obtained 3.80 g (75.7%) of the title product in the form of white crystals, m.p. 109°-111° C.

reactant | KF | 52 mmoles, 3.016 g | [F-].[K+]
reactant | diethyl-2-bromo-2-methyl-malonate | 20 mmoles, 3.90 ml | C(C)OC(C(C(=O)OCC)(C)Br)=O | C8H13BrO4
reactant | 2-mercaptoaniline | 20 mmoles, 2.50 g | SC1=C(N)C=CC=C1 | C6H7NS
reactant | water | O | H2O
solvent | dimethyl formamide | 14 ml | CN(C=O)C | C3H7NO
product | Ethyl-2-methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazine-2-carboxylate | 3.80 g, 75.7% | C(C)OC(=O)C1(SC2=C(NC1=O)C=CC=C2)C | C12H13NO3S
